US05965741
Preparation of 4-(2-benzyl-6-bromophenoxymethyl)benzoic acid:
Methyl 4-(2-benzyl-6-bromophenoxymethyl)benzoate (prepared below) was dissolved in ethanol (50 ml) and THF (15 ml) and treated with a solution of sodium hydroxide (1N, 32 ml). The reaction was stirred for 72 hours, partially evaporated and the residue diluted with water and acidified with ethyl acetate to give a precipitate. The precipitate was recrystallised from ethanol/water to give the title product. MS (CI+): 397(M+H)+Elemental analysis: Calc: 63.5%C, 4.31%H Found: 63.3%C, 4.3%H

reactant | Methyl 4-(2-benzyl-6-bromophenoxymethyl)benzoate | C(C1=CC=CC=C1)C1=C(OCC2=CC=C(C(=O)OC)C=C2)C(=CC=C1)Br | C22H19BrO3
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 32 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-benzyl-6-bromophenoxymethyl)benzoic acid | C(C1=CC=CC=C1)C1=C(OCC2=CC=C(C(=O)O)C=C2)C(=CC=C1)Br | C21H17BrO3
